US07071175B1
A solution of to 2-[N,N-bis(tert-Butoxycarbonyl)amino]-isonicotinic acid ethyl ester (35.0 g, 95.5 mmol) in THF (350 mL) was treated with LiAlH4 (7.25 g, 191 mmol) and refluxed for 1 h under nitrogen. The reaction mixture was poured carefully onto crushed ice and the product extracted several times with CHCl3 and CHCl3: MeOH (9:1). The combined organic extracts were dried, filtered and concentrated under reduced pressure to give (4-hydroxymethyl-pyridin-2-yl)-carbamic acid tert-butyl ester (18.5 g, 86%) as a pale yellow solid.

reactant | 2-[N,N-bis(tert-Butoxycarbonyl)amino]-isonicotinic acid ethyl ester | 95.5 mmol, 35.0 g | C(C)OC(C1=CC(=NC=C1)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C18H26N2O6
reactant | LiAlH4 | 191 mmol, 7.25 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 350 mL | C1CCOC1 | C4H8O
product | (4-hydroxymethyl-pyridin-2-yl)-carbamic acid tert-butyl ester | 18.5 g, 86% | C(C)(C)(C)OC(NC1=NC=CC(=C1)CO)=O | C11H16N2O3
